2161-04-21 07:33:00 Physician Resident Progress Note
Chief Complaint: Metastatic small cell lung CA
   [**76**] Hour Events:
 BRONCHOSCOPY - At [**2161-4-20**] 02:15 PM
   She was seen by IP who did bronch at bedside, no signficant tracheal
   stenosis, RUL bronchu with >95% obstruction from external compression
   Also seen by radiation oncology who would like to hold off on XRT in
   hopes that chemo will decrease tumor burden and compression of
   airway/svc.
   IR consulted, with likely plans to stent SVC today
   Hem/Onc consulted: next cycle of chem 4 weeks from 1st cycle (~[**5-16**]),
   expect blood counts to nadir at day 10.  Heme-onc feels no indication
   for SVC stenting at this time.  Also recommended not anticoagulating
   for SVC stenosis, recc regular dvt prophylaxis.
   She was on pressure support initially however turned back to volume
   control to allow for increased sedation.
   Nutrition left tube feed reccs but not started in case of IR SVC
   stenting today vs possible extubation.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2161-4-20**] 12:30 PM
   Pantoprazole (Protonix) - [**2161-4-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-4-21**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.6
   HR: 79 (79 - 94) bpm
   BP: 98/63(70) {98/63(70) - 132/81(95)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    769 mL
                                                                    231 mL
   PO:
             TF:
   IVF:
                                                                    769 mL
                                                                    231 mL
   Blood products:
   Total out:
                                                                  1,683 mL
                                                                  1,385 mL
   Urine:
                                                                  1,683 mL
                                                                  1,385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -914 mL
                                                                 -1,154 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 254 (254 - 552) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 62
   PIP: 29 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.53/38/110/29/9
   Ve: 7.9 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Lymphatic: adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   rll), (Breath Sounds: Diminished: rll)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   305 K/uL
   9.6 g/dL
   116 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.3 mEq/L
   26 mg/dL
   95 mEq/L
   134 mEq/L
   27.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2161-4-19**]  09:00 PM
                             [**2161-4-19**]  10:34 PM
                             [**2161-4-20**]  01:08 AM
                             [**2161-4-20**]  05:12 AM
                             [**2161-4-20**]  06:05 AM
                             [**2161-4-21**]  03:59 AM
                             [**2161-4-21**]  06:48 AM
   WBC
   8.1
   8.8
   8.7
   Hct
   28.2
   29.5
   27.2
   Plt
   [**Telephone/Fax (3) 6953**]
   Cr
   0.6
   0.5
   0.7
   TCO2
   32
   30
   31
   33
   Glucose
   137
   112
   116
   Other labs: PT / PTT / INR:12.4/24.6/1.0, ALT / AST:42/69, Alk Phos / T
   Bili:215/0.3, Differential-Neuts:97.6 %, Lymph:2.0 %, Mono:0.2 %,
   Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:3.3 g/dL, Ca++:8.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR
   Assessment and Plan
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 SUPERIOR VENA CAVA SYNDROME (SVC)
 .H/O AIRWAY OBSTRUCTION, CENTRAL / UPPER
   52 F with recent diagnosis of metastatic small cell carcinoma s/p
   intubation for tracheal stenosis [**2-9**] extensive  lymphadenopathy and RUL
   mass course also c/b SVC syndrome
   .
   #. Tracheal stenosis and right mainstem bronchus stenosis- [**2-9**] large
   tumor burden and significant bulky adenopathy
   - IP- no central stenosiis, RUL external obstruction>>>chemo for now,
   no urgent need for stent
   - will wean sedation, do SBT and plan on extubation today
   - will plan to wean decadron given no need
   - prn nebulizers
   - propofol gtt
   - active T&S
   .
   #. Metastatic small cell lung carcinoma- known metastases to liver
   - nadir expected [**4-28**]
   - received carboplatin (1 day) and etoposide (3 days) from [**Date range (1) 6929**]
   -  chemo in 4 weeks
   .
   #. SVC syndrome- [**2-9**] malignancy and bulky adenopathy causing
   compression. Clinically has moderate left facial and arm swelling.
   - radiation oncology consult no reason for XRT for now
   - oncology following, would like to hold off on SVC stent
   - interventional radiology would like to do SVC stent today likely vs
   holding off to see if chemo decreases size tumor
   - no need for AC per ONC
   .
   # Large right pleural effusion- [**2-9**] malignancy
   - monitor, may need tap vs. pleurex catheter if difficult to extubate
   .
   # Anemia- [**2-9**] chronic disease from cancer
   - active type and screen
   - guiac stool
   - iron panel, retic count, B12 c/w chronic disease
   .
   # Elevated LFT's- [**2-9**] known metastatic disease
   - monitor
   .
   #. FEN - NPO for now, start tube feedings after discussion of
   procedures
   .
   #. Access - 2 PIV, arterial line
   .
   #. PPx -
   -DVT ppx with low dose heparin sq
   -IV PPI
   -VAP bundle
   -SSI given on steroids
   .
   #. Code - had discussion with daughter and son, family is all on the
   same page and understand grim prognosis, they want her full code for
   the time being but will re-address as time goes on
   .
   # [**Name (NI) 6930**] Husband [**Name (NI) 653**] [**Name (NI) 1053**] [**Telephone/Fax (1) 6931**], [**Telephone/Fax (1) 6932**]
    Daughter [**Name (NI) 1321**] [**Telephone/Fax (1) 6933**]
   ICU Care
   Nutrition:
   Comments: TF if remains intubated
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2161-4-19**] 10:34 PM
   20 Gauge - [**2161-4-20**] 02:30 AM
   22 Gauge - [**2161-4-20**] 02:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2161-04-21 10:12:00 Physician Attending Progress Note
Chief Complaint: stridor
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 y/o F w/newly diagnosed extensive stage SCLC admitted for evaluation
   of central airway stenosis and SVC syndrome.
   24 Hour Events:
   - Bronch yesterday revealed no evidence of significant airway stenosis
   centrally.  She has significant compression (extrinsic) of the RUL
   bronchus.
   - Seen by  IP, IR, Rad Onc and Med Onc yesterday.  Med Onc does not
   feel there is an urgent need for SVC stent given her apparent response
   to chemo.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2161-4-20**] 12:30 PM
   Pantoprazole (Protonix) - [**2161-4-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-4-21**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.2
C (97.2
   HR: 86 (78 - 94) bpm
   BP: 127/76(89) {98/63(70) - 132/81(95)} mmHg
   RR: 16 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    769 mL
                                                                    311 mL
   PO:
             TF:
   IVF:
                                                                    769 mL
                                                                    311 mL
   Blood products:
   Total out:
                                                                  1,683 mL
                                                                  1,905 mL
   Urine:
                                                                  1,683 mL
                                                                  1,905 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -914 mL
                                                                 -1,594 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 350 (254 - 552) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 62
   PIP: 16 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.53/39/108
   Ve: 5 L/min
   PaO2 / FiO2: 270
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   305 K/uL
   116 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.3 mEq/L
   26 mg/dL
   95 mEq/L
   134 mEq/L
   27.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2161-4-19**]  09:00 PM
                             [**2161-4-19**]  10:34 PM
                             [**2161-4-20**]  01:08 AM
                             [**2161-4-20**]  05:12 AM
                             [**2161-4-20**]  06:05 AM
                             [**2161-4-21**]  03:59 AM
                             [**2161-4-21**]  06:48 AM
                             [**2161-4-21**]  09:12 AM
   WBC
   8.1
   8.8
   8.7
   Hct
   28.2
   29.5
   27.2
   Plt
   [**Telephone/Fax (3) 6953**]
   Cr
   0.6
   0.5
   0.7
   TCO2
   32
   30
   31
   33
   34
   Glucose
   137
   112
   116
   Other labs: PT / PTT / INR:12.4/24.6/1.0, ALT / AST:42/69, Alk Phos / T
   Bili:215/0.3, Differential-Neuts:97.6 %, Lymph:2.0 %, Mono:0.2 %,
   Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:3.3 g/dL, Ca++:8.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR today with large RUL mass, moderate R pleural effusion,
   stable retrocardiac opacity likely [**2-9**] atelectasis
   Assessment and Plan
   52F 30 pack year smoking history presented [**2161-4-8**] to outside hospital
   diagnoses with metastatic small cell carcinoma of the lung.  Developed
   SVC syndrome, and compression trachea and right mainstem bronchus
   requiring intubation at OSH.   Received chemo for 3 days with minimal
   improvement.  Transferred to [**Hospital1 19**] for possible airway stenting and
   intervention on SVC clot.   Pt remained remains intubated and was
   stable overnight.
   Tracheal stenosis
   -IP service evaluated airway |
   -no significant treacheal stenosis but did have ~80% narrowing RUL
   takeoff appearing external compression in nature
   -no intervention indicated at this point per IP
   Mech ventilation
   -intubated for airway protection
   -wean sedation
   -check cuff leak
   -SBT and assess for extubation
   -d/c steroids unless onc desires for post chemo
   SVC syndrome
   - IR evaluated for ? stent SVC.
   -Onc service wants to allow time for chemo to shrink tumor burden as it
   might obviate need for procedure.
   -cont observation of symptoms.  Hopeful that chemo will resolve
   external compression.
   Small cell lung cancer
   -s/p chemo
   -onc team following
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2161-4-19**] 10:34 PM
   20 Gauge - [**2161-4-20**] 02:30 AM
   22 Gauge - [**2161-4-20**] 02:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2161-04-23 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2161-4-22**] 10:34 AM
 SPUTUM CULTURE - At [**2161-4-22**] 10:38 AM
 EKG - At [**2161-4-22**] 10:51 AM
 THORACENTESIS - At [**2161-4-22**] 11:30 AM
   - TC with 1500
   - fluid pH 7.57 and exudative
   - post [**Female First Name (un) 217**] CXR with magnificent re-expansion of right lung and
   clearly no PTX
   - underwent IR SVC stent placement
   - thrombi in right SC vein hence started on heparin gtt
   - cards>>myoperoicarditis from chemo vs viral, switch to carvedilol and
   increased captopril, repeat TTE in 1 week
   - held TF in anticipation of extubation in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2161-4-22**] 12:41 PM
   Piperacillin - [**2161-4-22**] 06:00 PM
   Vancomycin - [**2161-4-22**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-4-23**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-4-23**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 81 (76 - 93) bpm
   BP: 111/56(69) {105/43(59) - 159/96(107)} mmHg
   RR: 27 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,819 mL
                                                                    442 mL
   PO:
             TF:
   IVF:
                                                                  1,529 mL
                                                                    382 mL
   Blood products:
   Total out:
                                                                  3,105 mL
                                                                    665 mL
   Urine:
                                                                  3,105 mL
                                                                    665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,286 mL
                                                                   -223 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   Compliance: 42.6 cmH2O/mL
   SpO2: 100%
   ABG: ///22/
   Ve: 8.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   189 K/uL
   9.0 g/dL
   133 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.4 mEq/L
   29 mg/dL
   97 mEq/L
   133 mEq/L
   27.2 %
   2.0 K/uL
        [image002.jpg]
                             [**2161-4-20**]  05:12 AM
                             [**2161-4-20**]  06:05 AM
                             [**2161-4-21**]  03:59 AM
                             [**2161-4-21**]  06:48 AM
                             [**2161-4-21**]  09:12 AM
                             [**2161-4-21**]  05:17 PM
                             [**2161-4-21**]  05:29 PM
                             [**2161-4-21**]  08:59 PM
                             [**2161-4-22**]  03:44 AM
                             [**2161-4-23**]  03:57 AM
   WBC
   8.8
   8.7
   9.9
   6.1
   2.0
   Hct
   29.5
   27.2
   28.7
   30.5
   27.2
   Plt
   [**Telephone/Fax (3) 6975**]71
   189
   Cr
   0.5
   0.7
   0.6
   0.8
   1.0
   TropT
   0.52
   0.47
   0.37
   TCO2
   31
   33
   34
   26
   Glucose
   112
   116
   130
   106
   133
   Other labs: PT / PTT / INR:15.0/95.8/1.3, CK / CKMB /
   Troponin-T:230/9/0.37, ALT / AST:48/101, Alk Phos / T Bili:185/1.4,
   Differential-Neuts:97.6 %, Lymph:2.0 %, Mono:0.2 %, Eos:0.1 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:1458 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: [**4-22**] Pleural fluid: 2+ , no microorg
   Protein 3.5, Glucose 108, WBC 145 (Poly 36, lymph 29, monos 2, mesos
   27, macro 6), RBC 725
   Imaging: [**4-23**] CXR: pending
   [**4-22**] CXR: no evidence of pneumothorax, marked decrease in R pleural
   effusion, extensive [**Location (un) 6705**] in RUL, R hilar and mediastinal lad,
   associated post obstructive atelectasis in RUL.  Left lung with slight
   increase in patchy atelectasis at left base with new small left pleural
   effusion.  ETT in good position, NGT below the diaphragm
   Microbiology: [**4-23**] Stool Cx: C diff pending,
   [**4-22**] Sputum Cx:
   >25 PMNs and <10 epithelial cells/100X field.
   3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI  IN PAIRS AND CHAINS.
   1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   RESPIRATORY CULTURE (Preliminary): pending
   [**4-22**] Blood Cx: NGTD
   Assessment and Plan
 PLEURAL EFFUSION, ACUTE
 CARDIOMYOPATHY, OTHER
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 CANCER (MALIGNANT NEOPLASM), LUNG
 SUPERIOR VENA CAVA SYNDROME (SVC)
 .H/O AIRWAY OBSTRUCTION, CENTRAL / UPPER
   A/P: 52 F with recent diagnosis of metastatic small cell carcinoma s/p
   intubation for tracheal stenosis [**2-9**] extensive  lymphadenopathy and RUL
   mass course also c/b SVC syndrome, now s/p failed extubation and new
   global cardiomyopathy and SVC occlusion.
   .
   # Cardiomyopathy: Globally depressed EF with bump in troponin to
   suggest mild cardiac injury.  EKG with isolated STE in V2.  Clinically
   seems to be in mild cardiogenic shock.  Troponin trending down.  Likely
   stress induced cardiomyopathy.  Not obviously CAD.
   - Appreciate cards recs
   - Cont ASA
   - Cont BB and uptitrate
   - Start ACE-I
   - Hold on statin given elevated transaminases
   - Daily EKGs, trend CEs
   .
   #. Respiratory Failure/Tracheal/bronchial stenosis: [**2-9**] large tumor
   burden and significant bulky adenopathy.  Intervally worse per CT
   [**4-22**].  [**Month (only) 51**] Be affecting her respiratory failure and failure to wean.
   Also with low grade fever on steroids.
   - IP- no central stenosiis, RUL external obstruction>>>chemo for now,
   no urgent need for stent
   - cont sedation prn
   - cont decadron taper, plan to d/c tomorrow
   - plan for SBT this AM, will d/w family plan if she fails extubation
   - ABG after SBT
   - prn nebulizers
   - propofol gtt, wean sedation
   - active T&S
   - Start empiric antibiotics with vanco/zosyn
   - f/u sputum culture
   .
   #. Metastatic small cell lung carcinoma- known metastases to liver
   - nadir expected [**4-28**]
   - received carboplatin (1 day) and etoposide (3 days) from [**Date range (1) 6929**]
   -  chemo in 4 weeks
   .
   #. SVC syndrome- [**2-9**] malignancy and bulky adenopathy causing
   compression. Clinically has moderate left facial and arm swelling.  Now
   with occlusion per CT [**4-22**].  Clinically stable
   - radiation oncology consult no reason for XRT for now
   - oncology following, would like to hold off on SVC stent if possible,
   though depends on symptoms
   - IR called to evaluate utility of stenting -> follow up recs
   - no need for AC per ONC
   #Subclavian thrombus
 likely [**2-9**] malignancy and venous stasis
   - heparin gtt for now, ? lovenox long term
   - monitor given counts will be dropping
   .
   # Large right pleural effusion- [**2-9**] malignancy.  Very large
   - plan to tap for symptomatic benefit
   .
   # Anemia- [**2-9**] chronic disease from cancer
   - active type and screen
   - guiac stool
   - iron panel, retic count, B12 c/w chronic disease
   .
   # Elevated LFT's- [**2-9**] known metastatic disease
   - monitor, check today given abd pain
   .
   #. FEN - NPO for now given extubation trial
   .
   #. Access - 2 PIV, arterial line
   .
   #. PPx -
   -DVT ppx with low dose heparin sq
   -IV PPI
   -VAP bundle
   -SSI given on steroids
   .
   #. Code - had discussion with daughter and son, family is all on the
   same page and understand grim prognosis, they want her full code for
   the time being but will re-address as time goes on
   .
   # [**Name (NI) 6930**] Husband [**Name (NI) 653**] [**Name (NI) 1053**] [**Telephone/Fax (1) 6931**], [**Telephone/Fax (1) 6932**]
    Daughter [**Name (NI) 1321**] [**Telephone/Fax (1) 6933**]
   ICU Care
   Nutrition: holding tube feeds for possible extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2161-4-20**] 02:30 AM
   22 Gauge - [**2161-4-20**] 02:30 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   Fellow & Residents for key portions of the services provided.  I agree
   with his / her note above, including assessment and plan.
   52F 30 pack year smoking history presented [**2161-4-8**] to outside hospital
   diagnoses with metastatic small cell carcinoma of the lung.  Developed
   SVC syndrome, and compression trachea and right mainstem bronchus
   requiring intubation at OSH.   Received chemo for 3 days with minimal
   improvement.  Transferred to [**Hospital1 19**] for possible airway stenting and
   intervention on SVC clot.   Pt failed extubation attempt on [**4-21**] with
   increased work of breathing and resp distress requiring reintubation.
   Tracheal stenosis
   -IP service evaluated airway
   -no significant treacheal stenosis but did have ~80% narrowing RUL
   takeoff appearing external compression in nature
   -no intervention indicated at this point per IP
   Mech ventilation
   -etiology of failed extubation not clear.
      -No stridor & had good cuff leak prior to extubation
      - no evidence of flash pulmonary edema though has new diffuse HK
      - no acute EKG changes, Trop bump but r/o by CK/MB
   Effusion
   - drained. Exudative.
   New diffuse hypokinesis (small region spared)
   -etiology of decline in EF/[**Name (NI) 6976**] unclear
   -no sig CK elevation and no diffuse ST elevations make mycocarditis
   unlikely
   -minimal EKG changes (single lead) and neg CK/MB make ischemic process
   unlikely
   -no evidence of sepsis/mediator suppression of EF
   -d/w cardiology, obtain echo from OSH to make sure difference is not
   related to interpretation/read
   SVC syndrome
   - IR placed SVC stent
   - thrombosis noted in SVC, anticoagulation started
   Small cell lung cancer
   -s/p chemo
   -onc team following
   Remainder of plan per resident note
   Patient is critically ill.
   Time spent on care: 35min.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 973**], MD
   on:[**2161-4-23**] 11:41 ------

2161-04-24 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2161-4-23**] 02:18 PM
 FALL - At [**2161-4-23**] 11:30 PM
   -extubated without complications
   -had deliruium and paranoia post extubation, refusing care, gave haldol
   0.5mg IV x1
   -heme/onc and IR agree with heparin gtt for subclavian vein thrombus
   -climbed out of bed and found on ground at 11:30pm, thinks hit back of
   head however no pain ro hematoma.  Heparin gtt stopped overnight, neuro
   checks overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2161-4-22**] 06:00 PM
   Levofloxacin - [**2161-4-23**] 12:00 PM
   Vancomycin - [**2161-4-23**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-4-24**] 02:00 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-4-23**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-4-24**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.3
   HR: 98 (71 - 102) bpm
   BP: 111/73(80) {99/45(58) - 126/78(85)} mmHg
   RR: 13 (12 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,270 mL
                                                                    589 mL
   PO:
             300 mL
   TF:
   IVF:
                                                                  2,150 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                  3,190 mL
                                                                    530 mL
   Urine:
                                                                  3,090 mL
                                                                    530 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                   -920 mL
                                                                     59 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 376 (302 - 448) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: 7.47/36/128/25/3
   Ve: 11.1 L/min
   PaO2 / FiO2: 320
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   197 K/uL
   9.3 g/dL
   111 mg/dL
   0.9 mg/dL
   25 mEq/L
   2.9 mEq/L
   23 mg/dL
   100 mEq/L
   136 mEq/L
   28.3 %
   1.1 K/uL
        [image002.jpg]
                             [**2161-4-21**]  03:59 AM
                             [**2161-4-21**]  06:48 AM
                             [**2161-4-21**]  09:12 AM
                             [**2161-4-21**]  05:17 PM
                             [**2161-4-21**]  05:29 PM
                             [**2161-4-21**]  08:59 PM
                             [**2161-4-22**]  03:44 AM
                             [**2161-4-23**]  03:57 AM
                             [**2161-4-23**]  09:31 AM
                             [**2161-4-24**]  04:14 AM
   WBC
   8.7
   9.9
   6.1
   2.0
   1.1
   Hct
   27.2
   28.7
   30.5
   27.2
   28.3
   Plt
   [**Telephone/Fax (3) 7003**]89
   197
   Cr
   0.7
   0.6
   0.8
   1.0
   0.9
   TropT
   0.52
   0.47
   0.37
   0.19
   TCO2
   33
   34
   26
   27
   Glucose
   116
   130
   106
   133
   111
   Other labs: PT / PTT / INR:13.5/27.2/1.2, CK / CKMB /
   Troponin-T:292/8/0.19, ALT / AST:42/92, Alk Phos / T Bili:143/1.3,
   Amylase / Lipase:/164, Differential-Neuts:43.0 %, Band:0.0 %,
   Lymph:57.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L,
   Albumin:3.3 g/dL, LDH:1700 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.3 mg/dL
   Imaging: [**4-24**] CXR:
   Microbiology: [**4-23**] Stool Cx: neg for cdiff
   [**2161-4-22**] SPUTUM
   GRAM STAIN (Final [**2161-4-22**]):
         >25 PMNs and <10 epithelial cells/100X field.
     3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI. IN PAIRS AND
   CHAINS.
   1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   RESPIRATORY CULTURE (Preliminary):
         MODERATE GROWTH OROPHARYNGEAL FLORA.
   [**4-22**] BCX: ngtd
   Assessment and Plan
 PLEURAL EFFUSION, ACUTE
 CARDIOMYOPATHY, OTHER
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 CANCER (MALIGNANT NEOPLASM), LUNG
 SUPERIOR VENA CAVA SYNDROME (SVC)
 .H/O AIRWAY OBSTRUCTION, CENTRAL / UPPER
   A/P: 52 F with recent diagnosis of metastatic small cell carcinoma s/p
   intubation for tracheal stenosis [**2-9**] extensive  lymphadenopathy and RUL
   mass course also c/b SVC syndrome, now s/p failed extubation and new
   global cardiomyopathy and SVC occlusion.
   .
   # Cardiomyopathy: Globally depressed EF with bump in troponin to
   suggest mild cardiac injury.  EKG with isolated STE in V2.  Clinically
   seems to be in mild cardiogenic shock.  Troponin trending down.  Likely
   stress induced cardiomyopathy.  Not obviously CAD.
   - Appreciate cards recs
   - Cont ASA
   - Cont BB and uptitrate
   - Start ACE-I
   - Hold on statin given elevated transaminases
   - Daily EKGs, trend CEs
   .
   #. Respiratory Failure/Tracheal/bronchial stenosis: [**2-9**] large tumor
   burden and significant bulky adenopathy.  Intervally worse per CT
   [**4-22**].  [**Month (only) 51**] Be affecting her respiratory failure and failure to wean.
   Also with low grade fever on steroids.
   - IP- no central stenosiis, RUL external obstruction>>>chemo for now,
   no urgent need for stent
   - cont sedation prn
   - cont decadron taper, plan to d/c tomorrow
   - plan for SBT this AM, will d/w family plan if she fails extubation
   - ABG after SBT
   - prn nebulizers
   - propofol gtt, wean sedation
   - active T&S
   - Start empiric antibiotics with vanco/zosyn
   - f/u sputum culture
   .
   #. Metastatic small cell lung carcinoma- known metastases to liver
   - nadir expected [**4-28**]
   - received carboplatin (1 day) and etoposide (3 days) from [**Date range (1) 6929**]
   -  chemo in 4 weeks
   .
   #. SVC syndrome- [**2-9**] malignancy and bulky adenopathy causing
   compression. Clinically has moderate left facial and arm swelling.  Now
   with occlusion per CT [**4-22**].  Clinically stable
   - radiation oncology consult no reason for XRT for now
   - oncology following, would like to hold off on SVC stent if possible,
   though depends on symptoms
   - IR called to evaluate utility of stenting -> follow up recs
   - no need for AC per ONC
   #Subclavian thrombus
 likely [**2-9**] malignancy and venous stasis
   - heparin gtt for now, ? lovenox long term
   - monitor given counts will be dropping
   .
   # Large right pleural effusion- [**2-9**] malignancy.  Very large
   - plan to tap for symptomatic benefit
   .
   # Anemia- [**2-9**] chronic disease from cancer
   - active type and screen
   - guiac stool
   - iron panel, retic count, B12 c/w chronic disease
   .
   # Elevated LFT's- [**2-9**] known metastatic disease
   - monitor, check today given abd pain
   .
   #. FEN - NPO for now given extubation trial
   .
   #. Access - 2 PIV, arterial line
   .
   #. PPx -
   -DVT ppx with low dose heparin sq
   -IV PPI
   -VAP bundle
   -SSI given on steroids
   .
   #. Code - had discussion with daughter and son, family is all on the
   same page and understand grim prognosis, they want her full code for
   the time being but will re-address as time goes on
   .
   # [**Name (NI) 6930**] Husband [**Name (NI) 653**] [**Name (NI) 1053**] [**Telephone/Fax (1) 6931**], [**Telephone/Fax (1) 6932**]
    Daughter [**Name (NI) 1321**] [**Telephone/Fax (1) 6933**]
   ICU Care
   Nutrition: holding tube feeds for possible extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2161-4-20**] 02:30 AM
   22 Gauge - [**2161-4-20**] 02:30 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2161-04-24 10:48:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, small cell lung cancer
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 Successfully extubated - [**2161-4-23**] 02:18 PM
 Fall out of bed - At [**2161-4-23**] 11:30 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2161-4-22**] 06:00 PM
   Levofloxacin - [**2161-4-23**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-4-24**] 02:00 AM
   Vancomycin - [**2161-4-24**] 08:13 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-4-23**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: sore throat
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2161-4-24**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 108 (75 - 108) bpm
   BP: 123/77(85) {99/47(66) - 126/80(86)} mmHg
   RR: 20 (12 - 26) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  2,270 mL
                                                                  1,212 mL
   PO:
             300 mL
   TF:
   IVF:
                                                                  2,150 mL
                                                                    912 mL
   Blood products:
   Total out:
                                                                  3,190 mL
                                                                    710 mL
   Urine:
                                                                  3,090 mL
                                                                    710 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                   -920 mL
                                                                    502 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 376 (376 - 376) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 92%
   ABG: ///25/
   Ve: 11.1 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   197 K/uL
   111 mg/dL
   0.9 mg/dL
   25 mEq/L
   2.9 mEq/L
   23 mg/dL
   100 mEq/L
   136 mEq/L
   28.3 %
   1.1 K/uL
        [image002.jpg]
                             [**2161-4-21**]  03:59 AM
                             [**2161-4-21**]  06:48 AM
                             [**2161-4-21**]  09:12 AM
                             [**2161-4-21**]  05:17 PM
                             [**2161-4-21**]  05:29 PM
                             [**2161-4-21**]  08:59 PM
                             [**2161-4-22**]  03:44 AM
                             [**2161-4-23**]  03:57 AM
                             [**2161-4-23**]  09:31 AM
                             [**2161-4-24**]  04:14 AM
   WBC
   8.7
   9.9
   6.1
   2.0
   1.1
   Hct
   27.2
   28.7
   30.5
   27.2
   28.3
   Plt
   [**Telephone/Fax (3) 7003**]89
   197
   Cr
   0.7
   0.6
   0.8
   1.0
   0.9
   TropT
   0.52
   0.47
   0.37
   0.19
   TCO2
   33
   34
   26
   27
   Glucose
   116
   130
   106
   133
   111
   Other labs: PT / PTT / INR:13.5/27.2/1.2, CK / CKMB /
   Troponin-T:292/8/0.19, ALT / AST:42/92, Alk Phos / T Bili:143/1.3,
   Amylase / Lipase:/164, Differential-Neuts:43.0 %, Band:0.0 %,
   Lymph:57.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L,
   Albumin:3.3 g/dL, LDH:1700 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   52F 30 pack year smoking history presented [**2161-4-8**] to outside hospital
   diagnoses with metastatic small cell carcinoma of the lung.  Developed
   SVC syndrome, and compression trachea and right mainstem bronchus
   requiring intubation at OSH.   Received chemo for 3 days with minimal
   improvement.  Transferred to [**Hospital1 19**] for possible airway stenting and
   intervention on SVC clot.   Pt failed extubation attempt on [**4-21**].
   Effusion drained.  Successfully extubated [**4-23**].
   Tracheal stenosis
   -IP service evaluated - no significant treacheal stenosis but did have
   ~80% narrowing RUL takeoff appearing external compression in nature
   -no intervention indicated at this point
   Mech ventilation
   -successfully extubated yesterday
   -now on room air with good sats
   Effusion
   - drained. Exudative, await cytology.
   -lung fields clear after effusion drained.  No infiltrate noted.  Can
   d/c abx given neg cultures.  Close obs.  Low threshold to restart given
   neutropenic.
   New diffuse hypokinesis (small region spared)
   -etiology of decline in EF/[**Name (NI) 6976**] unclear
   -no sig CK elevation and no diffuse ST elevations make mycocarditis
   unlikely
   -minimal EKG changes (single lead) and neg CK/MB make ischemic process
   unlikely
   -no evidence of sepsis/mediator suppression of EF
   SVC syndrome
   - IR placed SVC stent
   - thrombosis noted in SVC, anticoagulation started
   -transition heparin to LMW heparin
   Small cell lung cancer
   -s/p chemo
   -neutropenic as of today. Precautions started
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-4-22**] 09:52 PM
   20 Gauge - [**2161-4-23**] 01:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: